US06653330B2
4-[trans-5-[[(1R,2R)-2-(2,4-Difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-4′-(trifluoromethyl)benzanilide and cis isomer Thereof (Exemplification Compound Number 6-1)
In the same manner as that described in Example 3(3), a reaction was carried out using 4-formyl-4′-(trifluoromethyl)benzanilide (300 mg, 1.0 mmol), (2R,3R)-2-(2,4-difluorophenyl)-3-[[1-(hydroxymethyl)-2-hydroxyethyl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol (334 mg, 0.93 mmol) and p-toluenesulfonic acid monohydrate (318 mg, 1.7 mmol) and the reaction mixture was treated according to a similar procedure to that described in Example 3(3) to give the trans isomer of the title compound (275 mg, yield 47%) as a white solid and the cis isomer (58 mg, yield 10%) as a colorless oil. The trans isomer was recrystallized from ethyl acetate-hexane to give white powdery crystals.

reactant | 4-formyl-4′-(trifluoromethyl)benzanilide | 1.0 mmol, 300 mg | C(=O)C1=CC=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=C1 | C15H10F3NO2
reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-[[1-(hydroxymethyl)-2-hydroxyethyl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 0.93 mmol, 334 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SC(CO)CO)O | C15H19F2N3O3S
reactant | p-toluenesulfonic acid monohydrate | 1.7 mmol, 318 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-[trans-5-[[(1R,2R)-2-(2,4-Difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-4′-(trifluoromethyl)benzanilide | 275 mg, yield 47% | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=C1)(CN1N=CN=C1)O | C30H27F5N4O4S
